US05576324
2-Azidomethyl-2,5,8-trimethyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one
To 2-bromomethyl-2,5,8-trimethyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one (3.93 g, 12.2 mmol) and sodium azide (5.15 g, 79.3 mmol), dimethylformamide (85 ml) was added, and the mixture was stirred for 3 hours in a bath at 150° C. After cooling, post-treatment and recrystallization (chloroform-n-hexane) were performed in a manner similar to that described in Example 278 to obtain 3.28 g of the title compound as colorless crystals (94.7%).

reactant | 2-bromomethyl-2,5,8-trimethyl-2,3,6,7-tetrahydrofuro-[2,3-f]quinoline-7-one | 12.2 mmol, 3.93 g | BrCC1(CC=2C(=C3C=C(C(NC3=C(C2)C)=O)C)O1)C | C15H16BrNO2
reactant | sodium azide | 79.3 mmol, 5.15 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 85 ml | CN(C=O)C | C3H7NO
product | 2-Azidomethyl-2,5,8-trimethyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one | 3.28 g, 94.7% | N(=[N+]=[N-])CC1(CC=2C(=C3C=C(C(NC3=C(C2)C)=O)C)O1)C | C15H16N4O2
